US08119563B2
Step B Synthesis of tert-butyl 4-{bis[4-(trifluoromethoxy)phenyl]methyl}-4-hydroxypiperidine carboxylate as an Intermediate
A stirred solution of 8.9 grams (0.022 mole) of bis(trifluoromethoxyphenyl)bromomethane and 4.82 grams (0.024 mole) of tert-butyl 4-oxo-1-piperidine carboxylate in 150 mL of THF was chilled to −78° C., and 9.24 mL of n-butyl lithium (2.5 M) was added dropwise during a 15-minute period while maintaining the temperature of the reaction mixture between −85° C. to −75° C. The reaction mixture was then stirred for 30 minutes while maintaining the temperature of the reaction mixture between −80° C. to −70° C. The reaction mixture was quenched with an aqueous solution saturated with ammonium chloride keeping the internal temperature at less than −55° C., then the mixture was extracted two times with 100 mL of ethyl acetate. The extracts were combined and washed once with 75 mL of an aqueous mixture of 10% lithium chloride. The combined extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure to a residue. The residue was triturated with petroleum ether and a trace of ether then filtered, yielding 3.43 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | bis(trifluoromethoxyphenyl)bromomethane | 0.022 mole, 8.9 grams | FC(OC1=C(C=CC=C1)C(Br)C1=C(C=CC=C1)OC(F)(F)F)(F)F | C15H9BrF6O2
reactant | tert-butyl 4-oxo-1-piperidine carboxylate | 0.024 mole, 4.82 grams | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | n-butyl lithium | 2.5 M, 9.24 mL | C(CCC)[Li]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-{bis[4-(trifluoromethoxy)phenyl]methyl}-4-hydroxypiperidine carboxylate | 3.43 grams | FC(OC1=CC=C(C=C1)C(C1(CCN(CC1)C(=O)OC(C)(C)C)O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C25H27F6NO5
